US05952382
(b) Preparation of 7-(1-adamantyl)-6-benzyloxy-2-naphthylboronic acid
3 g (6.7 mmol) of 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene and 50 ml of THF were introduced into a three-necked flask under a stream of nitrogen. 3.2 ml (8 mmol) of n-butyllithium (2.5M in hexane) were added dropwise at -78° C. and stirring was carried out for 15 minutes, at the same temperature. 2.1 g (20 mmol) of trimethyl borate were added and stirring was carried out for 2 hours. 23 ml of hydrochloric acid (1N) were added at -50° C. and the temperature was permitted to increase to room temperature. The reaction mixture was extracted with ethyl ether and the organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was triturated in heptane, filtered and dried. 2.8 g (100%) of the expected boronic acid were collected, which acid was used, as is, in the synthesis to follow.

reactant | 7-(1-adamantyl)-6-benzyloxy-2-bromonaphthalene | 6.7 mmol, 3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)OCC2=CC=CC=C2 | C27H27BrO
reactant | n-butyllithium | 8 mmol, 2.5M, 3.2 ml | C(CCC)[Li]
reactant | trimethyl borate | 20 mmol, 2.1 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 1N, 23 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-(1-adamantyl)-6-benzyloxy-2-naphthylboronic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)B(O)O)OCC2=CC=CC=C2 | C27H29BO3
